US05559230
To 5-hydroxy-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.58 g) are added acetic anhydride (8.0 ml) and pyridine (2.0 ml). The mixture is stirred at room temperature for 1 hour. Water is added to the reaction mixture and the precipitated crystal is collected by filtration, and recrystallized from ethyl acetate/n-hexane to give 5-acetyloxy-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.56 g) as white powder, m.p. 193°-194° C.

reactant | 5-hydroxy-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.58 g | OC1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O | C25H24N2O3
reactant | acetic anhydride | 8.0 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 2.0 ml | N1=CC=CC=C1 | C5H5N
solvent | Water | O | H2O
product | 5-acetyloxy-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.56 g | C(C)(=O)OC1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O | C27H26N2O4
